* LMV358A - Rev. B
* Created by Paul Goedeke; May 01, 2018 - Revised by GPAMPS Team; 2021-06-29
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2018 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt LMV358A IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=0)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************


I_OS        ESDn MID 7P
I_B         33 MID 10P
V_GRp       58 MID 180
V_GRn       59 MID -180
V_ISCp      52 MID 42
V_ISCn      53 MID -42
V_ORn       41 VCLP -1.22
V11         57 40 0
V_ORp       39 VCLP 1.22
V12         56 38 0
V4          29 OUT 0
VCM_MIN     79 VEE_B -100M
VCM_MAX     80 VCC_B 100M
I_Q         VCC VEE 80U
V_OS        22 33 996U
XVOS_VCM    21 22 VCC VEE VOS_SRC_0
C30         23 24 15.92U
R85         24 MID R_NOISELESS 30K
R84         24 23 R_NOISELESS 10K
R83         23 MID R_NOISELESS 1
GVCCS10     26 MID 25 MID  -1
C29         27 MID 19.89F
R82         25 27 R_NOISELESS 10K
R81         25 28 R_NOISELESS 70K
R80         28 MID R_NOISELESS 1
GVCCS9      28 MID 24 MID  -3.8
GVCCS4      23 MID CL_CLAMP 29  -87
R79         30 MID R_NOISELESS 1
XU1         31 MID MID 30 VCCS_LIM_ZO_0
R78         31 MID R_NOISELESS 101
C22         31 26 15.92F
R65         31 26 R_NOISELESS 10K
R64         26 MID R_NOISELESS 1
R63         29 30 R_NOISELESS 400K
XCLAWn      MID VIMON VEE_B 32 VCCS_LIM_CLAW-_0
Xe_n        ESDp 33 VNSE_0
Xi_nn       ESDn MID FEMT_0_0
Xi_np       MID 33 FEMT_0_0
S5          VEE ESDp VEE ESDp  S_VSWITCH_1
S4          VEE ESDn VEE ESDn  S_VSWITCH_2
S2          ESDn VCC ESDn VCC  S_VSWITCH_3
S3          ESDp VCC ESDp VCC  S_VSWITCH_4
C28         34 MID 1P
R77         35 34 R_NOISELESS 100
C27         36 MID 1P
R76         37 36 R_NOISELESS 100
R75         MID 38 R_NOISELESS 1
GVCCS8      38 MID 39 MID  -1
R74         40 MID R_NOISELESS 1
GVCCS7      40 MID 41 MID  -1
C25         42 MID 25F
R69         MID 42 R_NOISELESS 1MEG
GVCCS6      42 MID VSENSE MID  -1U
C20         CLAMP MID 151.6N
R68         MID CLAMP R_NOISELESS 1MEG
XVCCS_LIM_2 43 MID MID CLAMP VCCS_LIM_2_0
R44         MID 43 R_NOISELESS 1MEG
XVCCS_LIM_1 44 45 MID 43 VCCS_LIM_1_0
Rdummy      MID 29 R_NOISELESS 40K
R61         MID 46 R_NOISELESS 273.3609
C16         46 47 1.1018N
R58         47 46 R_NOISELESS 100MEG
GVCCS2      47 MID VEE_B MID  -258.98M
R57         MID 47 R_NOISELESS 1
R56         MID 48 R_NOISELESS 273.3609
C15         48 49 1.1018N
R55         49 48 R_NOISELESS 100MEG
GVCCS1      49 MID VCC_B MID  -258.98M
R54         MID 49 R_NOISELESS 1
R49         MID 50 R_NOISELESS 337.4K
C14         50 51 591.7F
R48         51 50 R_NOISELESS 100MEG
G_adjust    51 MID ESDp MID  -44.81M
Rsrc        MID 51 R_NOISELESS 1
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp ESDn 1P
XCL_AMP     52 53 VIMON MID 54 55 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 56 CLAMP 56  S_VSWITCH_5
SOR_SWn     57 CLAMP 57 CLAMP  S_VSWITCH_6
XGR_AMP     58 59 60 MID 61 62 CLAMP_AMP_HI_0
R39         58 MID R_NOISELESS 1T
R37         59 MID R_NOISELESS 1T
R42         VSENSE 60 R_NOISELESS 1M
C19         60 MID 1F
R38         61 MID R_NOISELESS 1
R36         MID 62 R_NOISELESS 1
R40         61 63 R_NOISELESS 1M
R41         62 64 R_NOISELESS 1M
C17         63 MID 1F
C18         MID 64 1F
XGR_SRC     63 64 CLAMP MID VCCS_LIM_GR_0
R21         54 MID R_NOISELESS 1
R20         MID 55 R_NOISELESS 1
R29         54 65 R_NOISELESS 1M
R30         55 66 R_NOISELESS 1M
C9          65 MID 1F
C8          MID 66 1F
XCL_SRC     65 66 CL_CLAMP MID VCCS_LIM_4_0
R22         52 MID R_NOISELESS 1T
R19         MID 53 R_NOISELESS 1T
XCLAWp      VIMON MID 67 VCC_B VCCS_LIM_CLAW+_0
R12         67 VCC_B R_NOISELESS 1K
R16         67 68 R_NOISELESS 1M
R13         VEE_B 32 R_NOISELESS 1K
R17         69 32 R_NOISELESS 1M
C6          69 MID 1F
C5          MID 68 1F
G2          VCC_CLP MID 68 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K
G3          VEE_CLP MID 69 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 70 71 CLAMP_AMP_LO_0
R26         VCC_CLP MID R_NOISELESS 1T
R23         VEE_CLP MID R_NOISELESS 1T
R25         70 MID R_NOISELESS 1
R24         MID 71 R_NOISELESS 1
R27         70 72 R_NOISELESS 1M
R28         71 73 R_NOISELESS 1M
C11         72 MID 1F
C10         MID 73 1F
XCLAW_SRC   72 73 CLAW_CLAMP MID VCCS_LIM_3_0
H2          37 MID V11 -1
H3          35 MID V12 1
C12         SW_OL MID 100P
R32         74 SW_OL R_NOISELESS 100
R31         74 MID R_NOISELESS 1
XOL_SENSE   MID 74 36 34 OL_SENSE_0
S1          23 24 SW_OL MID  S_VSWITCH_7
H1          75 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_8
S6          OUT VCC OUT VCC  S_VSWITCH_9
R11         MID 76 R_NOISELESS 1T
R18         76 VOUT_S R_NOISELESS 100
C7          VOUT_S MID 1P
E5          76 MID OUT MID  1
C13         VIMON MID 1N
R33         75 VIMON R_NOISELESS 100
R10         MID 75 R_NOISELESS 1T
R47         77 VCLP R_NOISELESS 100
C24         VCLP MID 100P
E4          77 MID CL_CLAMP MID  1
R46         MID CL_CLAMP R_NOISELESS 1K
G9          CL_CLAMP MID CLAW_CLAMP MID  -1M
R45         MID CLAW_CLAMP R_NOISELESS 1K
G8          CLAW_CLAMP MID 42 MID  -1M
R43         MID VSENSE R_NOISELESS 1K
G15         VSENSE MID CLAMP MID  -1M
C4          44 MID 1F
R9          44 78 R_NOISELESS 1M
R7          MID 79 R_NOISELESS 1T
R6          80 MID R_NOISELESS 1T
R8          MID 78 R_NOISELESS 1
XVCM_CLAMP  81 MID 78 MID 80 79 VCCS_EXT_LIM_0
E1          MID 0 82 0  1
R89         VEE_B 0 R_NOISELESS 1
R5          83 VEE_B R_NOISELESS 1M
C3          83 0 1F
R60         82 83 R_NOISELESS 1MEG
C1          82 0 100e-9
R3          82 0 R_NOISELESS 1T
R59         84 82 R_NOISELESS 1MEG
C2          84 0 1F
R4          VCC_B 84 R_NOISELESS 1M
R88         VCC_B 0 R_NOISELESS 1
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       85 81 R_NOISELESS 1K
G_PSR       81 85 48 46  -1M
R2          45 ESDn R_NOISELESS 1M
R1          85 86 R_NOISELESS 1M
R_CMR       21 86 R_NOISELESS 1K
G_CMR       86 21 50 MID  -1M
C_CMn       ESDn MID 5P
C_CMp       MID ESDp 5P
R53         ESDn MID R_NOISELESS 1T
R52         MID ESDp R_NOISELESS 1T
R35         IN- ESDn R_NOISELESS 10M
R34         IN+ ESDp R_NOISELESS 10M

.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_7 VSWITCH (RON=1M ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_8 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_9 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)

.ENDS LMV358A
*
.SUBCKT VOS_SRC_0  V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0, 0.8E-3)
+(1, 0.8E-3)
+(1.3, 0)
+(5.5, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.7, -2E-4)
+(-0.5, -2E-4)
+(-0.4, 0)
+(5.5, 0)
.ENDS VOS_SRC_0
*


.SUBCKT VCCS_LIM_ZO_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 100
.PARAM IPOS = 35E3
.PARAM INEG = -35E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_CLAW-_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(00.0000, 0.00001)
+(14.0000, 0.000379)
+(28.0000, 0.000877)
+(37.3333, 0.001382)
+(37.8000, 0.00142)
+(38.7333, 0.001493)
+(39.6667, 0.001583)
+(40.6000, 0.001703)
+(41.5333, 0.00191)
+(42.0000, 0.00204)
.ENDS VCCS_LIM_CLAW-_0
*


.SUBCKT VNSE_0  1 2
.PARAM FLW=10
.PARAM NLF=115
.PARAM NVR=27
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*


.SUBCKT FEMT_0_0   1 2
.PARAM FLWF=0.001
.PARAM NLFF=25
.PARAM NVRF=23
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*


.SUBCKT VCCS_LIM_2_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 11.15E-3
.PARAM IPOS = 0.300
.PARAM INEG = -0.300
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_1_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIMIT_IQ_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*


.SUBCKT CLAMP_AMP_LO_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT CLAMP_AMP_HI_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT VCCS_LIM_GR_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.7
.PARAM INEG = -0.7
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_4_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.8
.PARAM INEG = -0.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_CLAW+_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(00.00, 0.000010)
+(13.67, 0.0003467)
+(27.33, 0.0007994)
+(36.44, 0.001309)
+(36.90, 0.001351)
+(37.81, 0.001455)
+(38.72, 0.001600)
+(39.63, 0.001812)
+(40.54, 0.002117)
+(41.00, 0.002292)
.ENDS VCCS_LIM_CLAW+_0
*


.SUBCKT VCCS_LIM_3_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.400
.PARAM INEG = -0.400
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT OL_SENSE_0  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*


.SUBCKT VCCS_EXT_LIM_0  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*


